US08034812B2
Production of 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)-N-[3-(trifluoromethyl)phenyl]benzamide
In the same manner as in Example 278 and using 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)benzoic acid (150 mg, 0.42 mmol), 3-(trifluoromethyl)aniline (191 mg, 1.2 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (230 mg, 0.6 mmol), N,N-diisopropylethylamine (160 mg, 1.3 mmol) and N,N-dimethylformamide (5 mL) as starting materials, the title compound (208 mg, 99%) was obtained as a white solid.

reactant | 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)benzoic acid | 0.42 mmol, 150 mg | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)SC2=C(C(=O)O)C=CC=C2)C1 | C17H14N4O3S
reactant | 3-(trifluoromethyl)aniline | 1.2 mmol, 191 mg | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.6 mmol, 230 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.3 mmol, 160 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}thio)-N-[3-(trifluoromethyl)phenyl]benzamide | 208 mg, 99% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)SC2=C(C(=O)NC3=CC(=CC=C3)C(F)(F)F)C=CC=C2)C1 | C24H18F3N5O2S
